US03941749
A mixture of 167g (1 mole) of m-nitrobenzoic acid and 160g (5 moles) of methanol was refluxed with stirring for 3 hours while a stream of dry HCl was bubbled in. A precipitate which formed on cooling to room temperature was filtered off, and dissolved in hot methanol. The solution was boiled for 10 minutes with a mixture of sodium carbonate and anhydrous calcium sulfate and was then filtered. The filtrate was stirred and refluxed while 118g (2 moles) of 85% hydrazine hydrate was added. The mixture was refluxed for 90 minutes and allowed to cool. The solid product was filtered off and recrystallized from water to give 258 g of m-nitrobenzhydrazide, m.p. 155°-155.5°C.

reactant | m-nitrobenzoic acid | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1 | C7H5NO4
reactant | HCl | Cl | ClH
reactant | hydrazine hydrate | O.NN
solvent | methanol | CO | CH4O
product | m-nitrobenzhydrazide | 258 g | [N+](=O)([O-])C=1C=C(C(=O)NN)C=CC1 | C7H7N3O3
